US05455267
A mixture consisting of 6.88 g (30.35 mmol) 5,7-dihydroxy-2-methylthiochromone, 12.56 g (91.05 mmol) potassium carbonate, 6.07 ml (60.70 mmol) isopropyl iodide, and 150 ml DMF was stirred at 60° C. for 30 min. Subsequently, 5 added to the solution thus reacted. The product was extracted twice with ethyl acetate. organic layer was washed with saturated salt water and dried over sodium sulfate anhydride. The solvent was distilled out under reduced pressure. The resulting crude product was purified by flash column cliromatography (hexane ethyl acetate =4:1), whereby 6.71 g of 5-hydroxy-7-isopropoxy-2-methylthiochromone was obtained (yield: 83%).

reactant | 5,7-dihydroxy-2-methylthiochromone | 30.35 mmol, 6.88 g | OC1=C2C(C=C(OC2=CC(=C1)O)C)=S | C10H8O3S
reactant | potassium carbonate | 91.05 mmol, 12.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 60.70 mmol, 6.07 ml | C(C)(C)I | C3H7I
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-hydroxy-7-isopropoxy-2-methylthiochromone | 6.71 g, yield: 83% | OC1=C2C(C=C(OC2=CC(=C1)OC(C)C)C)=S | C13H14O3S
